US08071592B2
(a) N-(3-fluorophenyl)-3,3-bis(methyloxy)propanamide
3-Fluoroaniline (50 g, 450 mmol) was dissolved in toluene (500 ml) and 25% NaOMe in MeOH (120 ml) and methyl (2E)-3-(methyloxy)-2-propenoate (57.4 ml, 495 mmol) were added. The mixture was then heated to 70° C. and stirred at this temperature for 2.5 hours. The solvent was then reduced to around a quarter of the original volume and the reaction was then treated with NH4Cl until pH 7 was reached (approx 500 ml used). EtOAc was added to the reaction and the layers separated, the aqueous layer was then extracted three times with EtOAc and the combined organic layers dried with MgSO4. The solvents were removed and the crude residues were purified by column chromatography on silica gel using a 30-50% EtOAc/40-60 petroleum ether gradient. Fractions containing product were concentrated to afford the desired compound (40.68 g, 40%) and a less pure batch (6.17 g, 6%)

reactant | 3-Fluoroaniline | 450 mmol, 50 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | NaOMe | C[O-].[Na+]
reactant | methyl (2E)-3-(methyloxy)-2-propenoate | 495 mmol, 57.4 ml | CO/C=C/C(=O)OC | C5H8O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 120 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(3-fluorophenyl)-3,3-bis(methyloxy)propanamide | 40.68 g, 40% | FC=1C=C(C=CC1)NC(CC(OC)OC)=O | C11H14FNO3
